US08097759B2
N-{2,5-Bis[(1,1-dimethyl)ethyl]phenyl}-5-chloro-2-hydroxybenzamide (Compound No. 159)
Using 5-chlorosalicylic acid and 2,5-bis[(1,1-dimethyl)ethyl]aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2,5-bis[(1,1-dimethyl)ethyl]aniline | CC(C)(C)C1=C(N)C=C(C=C1)C(C)(C)C | C14H23N
product | N-{2,5-Bis[(1,1-dimethyl)ethyl]phenyl}-5-chloro-2-hydroxybenzamide | Yield: 75.7% | CC(C)(C)C1=C(C=C(C=C1)C(C)(C)C)NC(C1=C(C=CC(=C1)Cl)O)=O | C21H26ClNO2
